US03966801
To 15.4 g. (0.0476 moles) of ethyl α-hydroxy-γ-(2'-chloro-4-biphenylyl)butyrate there is added slowly with stirring at 40°-50°C 23 g. (0.053 moles) of phosphorus pentabromide. The mixture is stirred at room temperature for 16 hours, then diluted with 70 ml. of petroleum ether, and poured into 125 ml. of ice-cold water. The organic phase is separated, washed with saturated aqueous sodium hydrogen carbonate solution, dried over anhydrous sodium sulfate, filtered and the solvent removed in vacuo to obtain ethyl α-bromo-γ-(2'-chloro-4-biphenylyl)butyrate.

reactant | ethyl α-hydroxy-γ-(2'-chloro-4-biphenylyl)butyrate | 0.0476 moles | OC(C(=O)OCC)CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C18H19ClO3
reactant | phosphorus pentabromide | 0.053 moles | P(Br)(Br)(Br)(Br)Br | Br5P
product | ethyl α-bromo-γ-(2'-chloro-4-biphenylyl)butyrate | BrC(C(=O)OCC)CCC1=CC=C(C=C1)C1=C(C=CC=C1)Cl | C18H18BrClO2
